US05428004
A mixture of 0.1 g (0.13 mmol) of (E)-5-t2-[4-(2-chlorophenyl)-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]ethyl]-2-[2-[3-[2-(4-cyclobutyl-2-thiazolyl)ethenyl]phenylamino]-2-oxoethyl]-benzoic acid monohydrate, 0.03 g (0.16 mmol) of N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride, 0.02 mL (4 mmol) of allylamine and 15 mL of dry CH2Cl2 was stirred at room temperature under nitrogen for 18 hours and concentrated to dryness. The residue was purified by thick layer chromatography using ethyl acetate/CH3OH (5:1) as the eluent. The product was isolated and partitioned between CH2Cl2 and dilute NH4OH. The organic phases were concentrated and the residue triturated with hot ethyl acetate and filtered. The filtrates were concentrated and the solid triturated with diethyl ether and filtered to give 60 mg (57%) of (E)-4-[2 -[4-(2-Chlorophenyl)-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][1,4 ]-diazepin-2-yl]ethyl]-N-[3-[2-(4-cyclobutyl-2-thiazolyl)ethenyl]-phenyl]-2-[2-propenylamino)carbonyl]benzeneacetamide as a tan powder: mp 127-132° C.

reactant | 2-[2-[3-[2-(4-cyclobutyl-2-thiazolyl)ethenyl]phenylamino]-2-oxoethyl]-benzoic acid monohydrate | O.C1(CCC1)C=1N=C(SC1)C=CC=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O
reactant | N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.16 mmol, 0.03 g | Cl.C(C)N=C=NCCCN(C)C
reactant | allylamine | 4 mmol, 0.02 mL | C(C=C)N | C3H7N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | benzeneacetamide | C1(=CC=CC=C1)CC(=O)N | C8H9NO
